US09169254B2
4-{2-[4-(3-Benzyloxy-5-trifluoromethyl-benzoylamino)-4-cyano-piperidine-1-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester (1.40 g, 2.04 mmol) was dissolved in DMSO (0.188 ml, 2.65 mmol) and methanol (7.00 ml). A 1 M aqueous sodium hydroxide solution (0.204 ml, 0.204 mmol) and aqueous hydrogen peroxide (30%, 0.265 ml, 2.65 mmol) were added under ice-cooling. The mixture was warmed to room temperature and stirred as such for two hours. After completion of the reaction, an aqueous sodium thiosulfate solution and an aqueous ammonium chloride solution were added, followed by extraction with ethyl acetate. The organic layer was washed with saline, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to give 4-{2-[4-(3-benzyloxy-5-trifluoromethyl-benzoylamino)-4-carbamoyl-piperidine-1-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester as a pale yellow amorphous (1.48 g).

reactant | 4-{2-[4-(3-Benzyloxy-5-trifluoromethyl-benzoylamino)-4-cyano-piperidine-1-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | 2.04 mmol, 1.40 g | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)(C#N)NC(C1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O)C)=O | C35H38F3N3O6S
reactant | DMSO | 2.65 mmol, 0.188 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 0.204 mmol, 1 M, 0.204 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 2.65 mmol, 0.265 ml | OO | H2O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 7.00 ml | CO | CH4O
product | 4-{2-[4-(3-benzyloxy-5-trifluoromethyl-benzoylamino)-4-carbamoyl-piperidine-1-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)(C(N)=O)NC(C1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O)C)=O | C35H40F3N3O7S
